US07091357B2
14c. (S)-1-(7-Methyl-octyl)-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide salt (NONB-7M)
To a stirred solution of (S)-nicotine (0.37 g, 2.3 mmol) in AcOH (10 ml) was added 1-bromo-7-methyl-octane (1.20 g, 5.80 mmol). The mixture was heated at reflux for 3 days. AcOH was evaporated and the residue was recrystallized in ethyl acetate-CHCl3 to (S)-1-(7-methyl-octyl)-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide salt (NONB-7M) (0.60 g, 58%) as hygroscopic white crystals: 1H NMR (300 MHz, CDCl3) δ 11.85 (1H, s), 10.61 (1H, s), 9.68 (1H, d, J=8.4 Hz), 8.83 (1H, d, J=6.0 Hz), 8.24 (1H, dd, J=8.1, 6.3 Hz), 5.80 (1H, m), 4.75 (2H, m), 4.01 (1H, m), 3.32 (1H, m), 2.96 (3H, d, J=4.8 Hz), 2.74 (1H, m), 2.30–2.60 (3H, m), 2.11 (2H, m), 1.05–1.55 (9H, m), 0.82 (6H, d, J=6.6 Hz); 13C NMR (75 MHz, CDCl3) δ 147.64, 146.61, 144.97, 134.71, 129.09, 67.21, 63.13, 56.16, 38.97, 32.15, 31.82, 29.48, 28.10, 27.36, 26.55, 22.86, 21.97; Anal. Calcd for C19H34Br2N2.0.3H2O: C, 50.09; H, 7.63; N, 6.15. Found: C, 50.08; H, 7.64; N, 6.13.

reactant | (S)-nicotine | 2.3 mmol, 0.37 g | N1=CC=CC(=C1)[C@H]1N(C)CCC1 | C10H14N2
reactant | 1-bromo-7-methyl-octane | 5.80 mmol, 1.20 g | BrCCCCCCC(C)C | C9H19Br
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | (S)-1-(7-Methyl-octyl)-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide salt | Br.[Br-].CC(CCCCCC[N+]1=CC(=CC=C1)[C@H]1N(CCC1)C)C | InChI=1S/C19H33N2.2BrH/c1-17(2)10-6-4-5-7-14-21-15-8-11-18(16-21)19-12-9-13-20(19)3;;/h8,11,15-17,19H,4-7,9-10,12-14H2,1-3H3;2*1H/q+1;;/p-1/t19-;;/m0../s1
